US08293768B2
Synthesis of 2-(1-(2-(4-fluorobenzylamino)ethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
A solution of 2-(4-(4-methyl-5-(pyridin-3-ylmethylcarbamoyl)thiazol-2-yl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)ethyl methanesulfonate (0.10 g, 0.23 mmol) and (4-fluorophenyl)methanamine (0.09 g, 0.69 mmol) in anhydrous methanol (5 mL) was heated at reflux for 6 hours. The solvent was removed in vacuo and the residue was purified by column chromatography eluted with ethyl acetate to afford the title compound as a white solid in 66% yield (0.07 g): mp 106-107° C. (ethyl acetate/hexane); 1H NMR (300 MHz, CDCl3) δ 8.59 (br s, 1H), 8.56-8.47 (m, 1H), 8.25 (s, 1H), 7.73-7.65 (m, 1H), 7.32-7.18 (m, 3H), 7.00-6.89 (m, 2H), 6.44 (t, J=5.8 Hz, 1H), 4.59 (d, J=5.8 Hz, 2H), 3.98 (t, J=5.8 Hz, 2H), 3.77 (s, 2H), 3.00 (t, J=5.8 Hz, 2H), 2.64 (s, 3H); MS (ES+) m/z 468.2 (M+1).

reactant | 2-(4-(4-methyl-5-(pyridin-3-ylmethylcarbamoyl)thiazol-2-yl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)ethyl methanesulfonate | 0.23 mmol, 0.10 g | CS(=O)(=O)OCCN1N=CN(C1=O)C=1SC(=C(N1)C)C(NCC=1C=NC=CC1)=O | C16H18N6O5S2
reactant | (4-fluorophenyl)methanamine | 0.69 mmol, 0.09 g | FC1=CC=C(C=C1)CN | C7H8FN
solvent | methanol | 5 mL | CO | CH4O
product | 2-(1-(2-(4-fluorobenzylamino)ethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 66% yield | FC1=CC=C(CNCCN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)C=C1 | C22H22FN7O2S
